US04846882
To a cooled (-40° C.) solution of fuming nitric acid (90%, 25 ml) was added dropwise 2-chloro-4-fluorobenzyl ethyl ether (2.5 g, 0.013 mole) at a rate which maintained the temperature at or below -40° C. Upon completion of addition, the reaction mixture was stirred for 15 minutes at -40° C. The reaction mixture was poured into ice (200 ml) and extracted with methylene chloride (7×40 ml). The extracts were combined, washed with water (2×40 ml), dried (magnesium sulfate) and concentrated under reduced pressure. The residue was passed through a column of silica gel eluting with ethyl acetate:heptane (1:9). Appropriate fractions were combined and concentrated under reduced pressure, yielding 1.07 g of 4-chloro-5-ethoxymethyl-2fluoronitrobenzene. The ir spectrum was consistent with the proposed structure.

reactant | nitric acid | 25 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-chloro-4-fluorobenzyl ethyl ether | 0.013 mole, 2.5 g | C(C)OCC1=C(C=C(C=C1)F)Cl | C9H10ClFO
product | 4-chloro-5-ethoxymethyl-2fluoronitrobenzene | 1.07 g | ClC1=CC(=C(C=C1COCC)[N+](=O)[O-])F | C9H9ClFNO3
